US04970218
N-(3-Chloro-4-pyridinyl)-N-propyl-1H-indol-1-amine hydrochloride
The title compound was prepared from N-(3-chloro-4-pyridinyl)-N-propyl-1H-indol-1-amine and propyl bromide with the aid of NaH in substantially the same manner as in Example 4, m.p. 202° C. (decomp.).

reactant | N-(3-chloro-4-pyridinyl)-N-propyl-1H-indol-1-amine | ClC=1C=NC=CC1N(N1C=CC2=CC=CC=C12)CCC | C16H16ClN3
reactant | propyl bromide | C(CC)Br | C3H7Br
reactant | NaH | [H-].[Na+]
product | N-(3-Chloro-4-pyridinyl)-N-propyl-1H-indol-1-amine hydrochloride | Cl.ClC=1C=NC=CC1N(N1C=CC2=CC=CC=C12)CCC | InChI=1S/C16H16ClN3.ClH/c1-2-10-19(16-7-9-18-12-14(16)17)20-11-8-13-5-3-4-6-15(13)20;/h3-9,11-12H,2,10H2,1H3;1H
